US06531478B2
To a solution of 1-(4-tolyl)-3-(4-aminophenyl)-5-aminopyrazole (0.1 g, 0.4 mmol) in CH2Cl2 (5 mL) at room temperature was added triethylamine (0.16 mL, 1.2 mmol) and benzenesulfonyl chloride (0.11 mL, 0.82 mmol). The resultant mixture was stirred at room temperature overnight. The solvent was evaporated and the residue purified by prep TLC eluting with 2:1 hexanes/EtOAc to yield N-[4-[5-amino-1(4-methylphenyl)-1H-pyrazol-3-yl]phenyl]-N-(phenylsulfonyl)-benzenesulfonamide as a solid.

reactant | 1-(4-tolyl)-3-(4-aminophenyl)-5-aminopyrazole | 0.4 mmol, 0.1 g | C1(=CC=C(C=C1)N1N=C(C=C1N)C1=CC=C(C=C1)N)C | C16H16N4
reactant | triethylamine | 1.2 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 0.82 mmol, 0.11 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[4-[5-amino-1(4-methylphenyl)-1H-pyrazol-3-yl]phenyl]-N-(phenylsulfonyl)-benzenesulfonamide | NC1=CC(=NN1C1=CC=C(C=C1)C)C1=CC=C(C=C1)N(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C28H24N4O4S2
